US07049315B2
8,9-Dimethoxy-2,3-methylenedioxy-5-[2-(pyrrolidin-1-yl)ethyl]-5H-dibenzo[c,h]1,6-naphthyridin-6-one:
Prepared from N-(6,7-Methylenedioxyquinolin-4-yl)-N-[(2-pyrrolidin-1-yl)ethyl]-2-iodo-4,5-dimethoxybenzamide; (36% yield); reaction time 30 min; mp 255-257° C. (dec.); IR (CHCl3) 1653; 1H NMR (CDCl3) δ 1.79 (m, 4H), 2.64 (m, 4H), 3.20 (t, 2H, J=7.1), 4.07 (s, 3H), 4.14 (s, 3H), 4.69 (t, 2H, J=7.1), 6.18 (s, 2H), 7.46 (s, 1H), 7.68 (s, 1H), 7.89 (s, 1H), 7.95 (s, 1H), 9.37 (s, 1H); 13C NMR (CDCl3) δ 23.7, 49.6, 54.3, 56.3, 56.4, 56.4, 101.3, 102.0, 102.3, 107.0, 108.7, 111.7, 114.8, 119.3, 127.7, 140.9, 143.4, 147.3, 147.8, 150.0, 150.3, 154.2, 164.2; HRMS calcd for C25H25N3O5H: 448.1872; found 448.1872.

reactant | N-(6,7-Methylenedioxyquinolin-4-yl)-N-[(2-pyrrolidin-1-yl)ethyl]-2-iodo-4,5-dimethoxybenzamide | C1OC=2C=C3C(=CC=NC3=CC2O1)N(C(C1=C(C=C(C(=C1)OC)OC)I)=O)CCN1CCCC1 | C25H26IN3O5
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 8,9-Dimethoxy-2,3-methylenedioxy-5-[2-(pyrrolidin-1-yl)ethyl]-5H-dibenzo[c,h]1,6-naphthyridin-6-one | 36% yield | COC=1C(=CC2=C(C(N(C3=C4C(=NC=C23)C=C2C(=C4)OCO2)CCN2CCCC2)=O)C1)OC | C25H25N3O5
